US05393891
2-(2'-FLUORO-1,1'-BIPHENYL-4-YL)-3-METHYL-6-(2-AMINOETHYL)-4-QUINOLINECARBOXYLIC ACID.
5-(2-trifluoroacetylaminoethyl)-isatin (572 mg, 2.0 mmol) and 4-(2-fluorophenyl)propiophenone (457 mg, 2.0 mmol) were suspended in ethanol (6 ml) and treated with a solution of KOH (1.01 g, 18.0 mmol) in water (3 ml). The mixture was heated at reflux for 48 hours. The mixture was then cooled, diluted with additional water, concentrated in vacuo to remove the ethanol, and filtered. The solid was washed with water, and the combined aqueous filtrate was adjusted to pH 8 with dilute aqueous HCl. The resulting solid was collected by filtration, rinsed thoroughly with water and dried to provide the title hapten as a cream-colored solid (500 mg, 62%): mp>250° C.; NMR (CF3COOD) δ 8.61 (d, 1H), 8.44 (s, 1H), 8.33 (d, 1H), 8.12 (d, 2H), 7.95 (d, 2H), 7.69 (t, 1H), 7.57 (m, 1H), 7.43 (t, 1H), 7.35 (m, 1H), 3.92 (bs, 2H), 3.71 (bt, 2H), 2.95 (s, 3H); mass spec (NH3 -CI) m/z 401 (100%).

reactant | 5-(2-trifluoroacetylaminoethyl)-isatin | 2.0 mmol, 572 mg | FC(C(=O)NCCC=1C=C2C(C(NC2=CC1)=O)=O)(F)F | C12H9F3N2O3
reactant | 4-(2-fluorophenyl)propiophenone | 2.0 mmol, 457 mg | CCC(=O)C1=CC=C(C=C1)C2=CC=CC=C2F | C15H13FO
reactant | KOH | 18.0 mmol, 1.01 g | [OH-].[K+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | 2-(2'-FLUORO-1,1'-BIPHENYL-4-YL)-3-METHYL-6-(2-AMINOETHYL)-4-QUINOLINECARBOXYLIC ACID | 500 mg, 62% | FC1=C(C=CC=C1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1C)C(=O)O)CCN | C25H21FN2O2
